US06329338B1
(1) Synthesis of 3-benzyloxycarbonylamino-1-propanol
3-Amino-l-propanol (5.0 g) was dissolved in a mixture of dioxane (50 ml) and water (50 ml), and to the resulting solution were added under ice-cooling sodium hydrogen carbonate (4.3 mg) and benzyloxychloride (15.6 ml). The resultant mixture was stirred at that temperature for 1.5 hours. Ethyl acetate and water were added to the reaction solution obtained. The organic layer so separated was dried over magnesium sulfate. The solvent was evaporated off from the solution, and the residue was purified by a silica gel chromatography, thus affording the title compound (8.5 g; 62%).

reactant | 3-Amino-l-propanol | 5.0 g | NCCCO | C3H9NO
reactant | sodium hydrogen carbonate | 4.3 mg | C(O)([O-])=O.[Na+]
reactant | benzyloxychloride | 15.6 ml | C(C1=CC=CC=C1)OCl | C7H7ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-benzyloxycarbonylamino-1-propanol | 8.5 g, 62% | C(C1=CC=CC=C1)OC(=O)NCCCO | C11H15NO3
